US07943669B2
[4-(3-Bromo-5-hydroxy-phenylsulfanyl)-2-chloro-phenoxy]-acetic Acid Ethyl Acetate
(2-Chloro-4-mercapto-phenoxy)-acetic acid ethyl ester (3 g; 12.16 mmol), dibromo-phenol (3.67 g; 14.59 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.45 g; 0.49 mmol), and 1,1′-bis-(diphenylphosphino)ferrocene (0.40 g; 0.73 mmol) were added to a dry reaction flask under an atmosphere of nitrogen. Triethylamine (6.74 mL, 48.64 mmol) and NMP (10 mL) were added, and the reaction mixture was stirred in a microwave oven for 1 h at 100° C. The reaction mixture was extracted with ethyl acetate, and the ethyl acetate phase was washed twice with a 5% aqueous citric acid solution. The organic phase was dried and evaporated in vacuo. The crude reaction product was purified by flash chromatography (dichloromethane→dichlormethane:ethyl acetate (1:1)). Yield 1.8 g. HPLC-MS: m/z: 441.2 (M+Na); Rt: 2.34 min.

reactant | (2-Chloro-4-mercapto-phenoxy)-acetic acid ethyl ester | 12.16 mmol, 3 g | C(C)OC(COC1=C(C=C(C=C1)S)Cl)=O | C10H11ClO3S
reactant | dibromo-phenol | 14.59 mmol, 3.67 g | BrC=1C(=C(C=CC1)O)Br | C6H4Br2O
reactant | Triethylamine | 48.64 mmol, 6.74 mL | C(C)N(CC)CC | C6H15N
catalyst | tris(dibenzylideneacetone)dipalladium | 0.49 mmol, 0.45 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis-(diphenylphosphino)ferrocene | 0.73 mmol, 0.40 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | [4-(3-Bromo-5-hydroxy-phenylsulfanyl)-2-chloro-phenoxy]-acetic Acid Ethyl Acetate | C(C)OC(C)=O.BrC=1C=C(C=C(C1)O)SC1=CC(=C(OCC(=O)O)C=C1)Cl | InChI=1S/C14H10BrClO4S.C4H8O2/c15-8-3-9(17)5-11(4-8)21-10-1-2-13(12(16)6-10)20-7-14(18)19;1-3-6-4(2)5/h1-6,17H,7H2,(H,18,19);3H2,1-2H3
